US04414225
Benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepinecarboxylate
This compound was prepared from 40 gm (0.16 mol) of 1-benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine and 34.2 gm (0.20 mol) of benzyl chloroformate analogous to Example G.

reactant | 1-benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine | 0.16 mol, 40 gm | C(C1=CC=CC=C1)N1CCC(=C(CC1)C=O)Cl | C14H16ClNO
reactant | benzyl chloroformate | 0.20 mol, 34.2 gm | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepinecarboxylate | C(C1=CC=CC=C1)OC(=O)N1CCC(=C(CC1)C=O)Cl | C15H16ClNO3
